US08084489B2
This compound is made by the general method as exemplified in Preparation 94 using 2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-ol and 5-(1-hydroxymethyl-propyl)-thiophene-2-carboxylic acid methyl ester in Step A and 3-amino-propionic acid methyl ester hydrochloride salt in Step C as the starting materials to provide (±)-3-({5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-propyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester (0.225 g) as a white solid. MS (ES): 532.3 [M−H]−. The racemic material is separated by chiral HPLC (column: Chiralpak AD-H 4.6×150 mm; eluent: 20:80 IPA/supercritical CO2; flow rate: 5 mL/min; UV absorbance wavelength: 270 nm) to provide Isomer 1 (0.049 g, >99% ee) and Isomer 2 (0.049 g, 96.8% ee).

reactant | 2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-ol | CC1=C(C(=CC(=C1)O)C)C1=CC=C(C=C1)C(F)(F)F | C15H13F3O
reactant | 5-(1-hydroxymethyl-propyl)-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1)C(CC)CO | C10H14O3S
reactant | 3-amino-propionic acid methyl ester hydrochloride salt | Cl.COC(CCN)=O
product | (±)-3-({5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-propyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester | 0.225 g | COC(CCNC(=O)C=1SC(=CC1)C(CC)COC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(F)(F)F)C)=O | C28H30F3NO4S
